US04202832
1.5 G. of 4-{[(p-chlorobenzyl)thiocarbamoyl]thio}-butyric acid were dissolved in 30 ml. of diethyl ether and treated with an excess of an ethereal diazomethane solution. The resulting solution was evaporated. The residue was recrystallized from cyclohexane, and 1.2 g. of 4-{[(p-chlorobenzyl)thiocarbamoyl]thio}-butyric acid methyl ester having a melting point of 60°-62° C. were obtained.

reactant | 4-{[(p-chlorobenzyl)thiocarbamoyl]thio}-butyric acid | ClC1=CC=C(CNC(=S)SCCCC(=O)O)C=C1 | C12H14ClNO2S2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-{[(p-chlorobenzyl)thiocarbamoyl]thio}-butyric acid methyl ester | COC(CCCSC(NCC1=CC=C(C=C1)Cl)=S)=O | C13H16ClNO2S2
